US07442805B2
Synthesis of 5-{[(4-tert-butylphenyl)sulfonyl]amino}-3-phenyl-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate and 4-tert-butylbenzene sulfonyl chloride followed the procedures of Example 1 Step 2 & Step 3 as a gray solid: 1H NMR (DMSO-d6) δ 1.25 (s, 9H, 7.05 (d, J=1.8 Hz, 1H, 7.10 (dd, J=8.9, 2.0 Hz, 1H, 7.26-7.45 (m, 6H, 7.54 (d, J=8.9 Hz, 2H, 7.57 (d, J=8.8 Hz, 2H, 9.81 (s, 1H, 11.79 (s, 1H, 12.42 (br s, 1H; MS (ESI) m/z 447 [M-H]−; HRMS calcd for C25H25N2O4S: 449.1533; found (ESI+): 449.1524; Anal. calcd for C25H24N2O4S.0.25H2O: C, 66.27; H, 5.45; N, 6.18. Found: C, 65.98; H, 5.34; N, 6.14.

reactant | ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC=CC=C1 | C17H14N2O4
reactant | 4-tert-butylbenzene sulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 5-{[(4-tert-butylphenyl)sulfonyl]amino}-3-phenyl-1H-indole-2-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2C(=C(NC2=CC1)C(=O)O)C1=CC=CC=C1 | C25H24N2O4S
